US03954732
Acetic acid (2 ml) was added to a solution of 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.54 g) in methylene chloride (10 ml). And to this solution was added silver acetate (0.34 g) under stirring at room temperature and then the mixture was stirred for 2.5 hours. After the reaction was completed, the reaction mixture was filtered under reduced pressure and the filtrate was washed with 5% hydrochloric acid and then filtered again. The oily residue was crystallized by treating with ether and the crystals were collected by filtration and then dried to give colorless needles of 2,2,2-trichloroethyl 2-acetoxymethyl-2-methyl-6-(2-phenylacetamido)-penam-3-carboxylate (0.21 g), mp 116° to 118°C.

reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.54 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | silver acetate | 0.34 g | C(C)(=O)[O-].[Ag+]
product | 2,2,2-trichloroethyl 2-acetoxymethyl-2-methyl-6-(2-phenylacetamido)-penam-3-carboxylate | 0.21 g | C(C)(=O)OCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C20H21Cl3N2O6S
